US08258144B2
A solution of 2,4-dichloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine (200 mg, 0.584 mmol), nipecotamide (75 mg, 0.586 mmol) and triethylamine (0.130 mL, 0.934 mmol) in dioxane (5 mL) was stirred at 70° C. for 20 h. Water and EtOAc were added. The organic phase was separated, dried over Na2SO4, concentrated in vacuo to give 1-(2-chloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidine-3-carboxamide (250 mg).

reactant | 2,4-dichloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine | 0.584 mmol, 200 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)Cl | C13H9Cl2N3O2S
reactant | nipecotamide | 0.586 mmol, 75 mg | N1CC(C(=O)N)CCC1 | C6H12N2O
reactant | triethylamine | 0.934 mmol, 0.130 mL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(2-chloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidine-3-carboxamide | 250 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)N2CC(CCC2)C(=O)N | C19H20ClN5O3S
